US08748627B2
5-bromo-2-isopropoxypyridine
To isopropanol (11 mL, 143 mmol) under nitrogen at 25° C. was added sodium hydride (95%, 1.94 g, 76.7 mmol) portion wise over 5 minutes. The reaction was stirred for 16 hours and a solution of 2-fluoro-5-bromopyridine (9 g, 51 mmol) in N,N-dimethyl formamide (250 mL) was added over 10 minutes. The resulting mixture was heated at 130° C. for 4 hours and cooled to 25° C. The mixture was diluted with ether (500 mL) and washed with water (600 mL) and brine (300 mL). The organic layer was dried (MgSO4), filtered, and concentrated to provide 10.1 g of the title compound (92%) as light yellow liquid. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.28 (d, J=6.25 Hz, 6H) 5.08-5.28 (m, 1H) 6.75 (d, J=8.82 Hz, 1H) 7.86 (dd, J=8.82, 2.57 Hz, 1H) 8.26 (d, J=2.57 Hz, 1H); MS (ESI) m/z 217.9 (M+H)+.

reactant | isopropanol | 143 mmol, 11 mL | C(C)(C)O | C3H8O
reactant | sodium hydride | 76.7 mmol, 1.94 g | [H-].[Na+]
reactant | 2-fluoro-5-bromopyridine | 51 mmol, 9 g | FC1=NC=C(C=C1)Br | C5H3BrFN
solvent | N,N-dimethyl formamide | 250 mL | CN(C=O)C | C3H7NO
solvent | ether | 500 mL | CCOCC | C4H10O
product | 5-bromo-2-isopropoxypyridine | 10.1 g, 92% | BrC=1C=CC(=NC1)OC(C)C | C8H10BrNO
